*$
* TPS54336
*****************************************************************************
* (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TPS54336
* Date: 17JUN2013
* Model Type: Average
* Simulator: PSpice
* Simulator Version: 16.2
* EVM Order Number: TPS54336EVM-556
* EVM Users Guide: SLVU927
* Datasheet: SLVSC03  
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*****************************************************************************
*
* Application Notes:
* 
* 1. Since this is an average model used for AC analysis, 
*    only the pins affecting AC analysis are modeled.
* 2. The model takes the inductance (L) as a parameter.
*    Pass appropriate values to this parameter based
*    on the application circuit. 
* 3. The operating quiescent current and thermal properties 
*    have not been modeled.
*
***************************************************************************** 


.SUBCKT TPS54336_AVG VIN VSENSE GND PH COMP PARAMS: L=15u 
V_V28         N14471894 GND 0.8
C_C13         GND COMP  10p  TC=0,0 
X_U1         VIN PH GND COMP N14471944 CCM PARAMS: L={L} FS= 340k RI=0.095 ACS=1
+  SLOPE_COMP=0.1
G_G2         GND COMP N14471894 VSENSE 1300u
R_R19         GND COMP  2.2e6 TC=0,0 
.ENDS TPS54336_AVG
*$
.SUBCKT CCM a c p vc dc params: L=4.7u FS=500k RI=83.3333m ACS=1 SLOPE_COMP=9
ESe Sa 0 value = { ({SLOPE_COMP}*{Fs}*{Ri}) }
Edc dcx 0 value = { v(cx,p)/(v(a,p)+1u) }
Xdc dcx dc limit params: clampH=0.99 clampL=48m
Ed2 d2X 0 value = {(1 - V(dc))} 
Xd2 d2X dc d2 limit2
GIap a p value =  {V(dc)*I(VM)}
GIpc p cx value = { V(vc)/({Acs}*{Ri}) }
GImju cx p value = {V(Sa)*V(dc)/({Acs}*{Ri}*{Fs})+(v(cx,p))/({L}*{Fs})*((1-(V(dc))/2)) }
XC1 cx p mode varicap ; 
Emode mode 0 Value = { IF ((2*{L}*{Fs}*I(VM)/(V(dc)*V(a,cx)+1u))
+ < 1, {4/({L}*(6.28*{Fs})^2)}, {4/({L}*(6.28*{Fs})^2)}) } ;
VM cx c
.ENDS
*$
.SUBCKT VARICAP 1 2 CTRL
R1 1 3 1u
VC 3 4
EBC 4 2 Value = { (1/v(ctrl))*v(int) }
GINT 0 INT Value = { I(VC) }
CINT INT 0 1
Rdum INT 0 10E10
.ENDS
*$
.subckt limit d dc params: clampH=0.99 clampL=48m
Gd 0 dcx VALUE = { V(d)*100u }
Rdc dcx 0 10k
V1 clpn 0 {clampL}
V2 clpp 0 {clampH}
D1 clpn dcx dclamp
D2 dcx clpp dclamp
Edc dc 0 value={ V(dcx) }
.model dclamp d n=0.01 rs=100m
.ENDS
*$
*
.subckt limit2 d2nc d d2c
Gd 0 d2cx d2nc 0 100u
Rdc d2cx 0 10k
V1 clpn 0 7m
E2 clpp 0 Value = { 1-V(d) }
D1 clpn d2cx dclamp
D2 d2cx clpp dclamp
Edc d2c 0 value={ V(d2cx) }
.model dclamp d n=0.01 rs=100m
.ENDS
*
*$
.SUBCKT LDCR IN OUT
+ PARAMs:  L=1u DCR=0.01 
L             IN 1  {L} 
RDCR	1 OUT {DCR}
.ENDS LDCR
*$
*
.SUBCKT CESR IN OUT
+ PARAMs:  C=100u ESR=0.01 X=2 
C	IN 1  {C*X} 
RESR	1 OUT {ESR/X}
.ENDS CESR
*$